### PR TITLE
[Merged by Bors] - feat: port Data.Int.Parity

### PR DESCRIPTION
**Pull request by joneugster**
---

Notes:

- replaced all occurences of `Int.mod` and `Ind.div` with `Int.emod` and `Int.ediv`. I think this is the right thing to do but not 100% sure.
- There is one `TODO` in `even_or_odd'`. Either golf my new proof or remove the comment.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Int/Parity.lean [hunk 1]
```diff
@@ -0,0 +1,297 @@
...
+  rw [add_comm]
+  convert Int.ediv_add_emod' (2 * c + 1) 2
+  simp [Int.add_emod]
+#align int.add_one_div_two_mul_two_of_odd Int.add_one_ediv_two_mul_two_of_odd
+
+theorem two_mul_ediv_two_of_odd (h : Odd n) : 2 * (n / 2) = n - 1 :=
+  eq_sub_of_add_eq (two_mul_ediv_two_add_one_of_odd h)
+#align int.two_mul_div_two_of_odd Int.two_mul_ediv_two_of_odd
+
+-- Here are examples of how `parity_simps` can be used with `int`.
```
Comment (jcommelin) [inline Mathlib/Data/Int/Parity.lean:291]:
```suggestion
-- Here are examples of how `parity_simps` can be used with `Int`.
```

File: Mathlib/Data/Int/Parity.lean [hunk 2]
```diff
@@ -0,0 +1,297 @@
...
+
+theorem odd_iff : Odd n ↔ n % 2 = 1 :=
+  ⟨fun ⟨m, hm⟩ => by
+    rw [hm, add_emod]
+    norm_num, fun h =>
+    ⟨n / 2,
+      (emod_add_ediv n 2).symm.trans
+        (by
+          rw [h]
+          abel)⟩⟩
```
Comment (jcommelin) [inline Mathlib/Data/Int/Parity.lean:53]: Please reflow these lines

File: Mathlib/Data/Int/Parity.lean [hunk 3]
```diff
@@ -73,79 +74,85 @@ theorem even_or_odd (n : ℤ) : Even n ∨ Odd n :=
   Or.imp_right odd_iff_not_even.2 <| em <| Even n
 #align int.even_or_odd Int.even_or_odd
 
+-- Porting note: TODO. I'm struggling that `Even` uses `k + k` while Odd uses `2 * k`,
+-- does this proof need golfing?
+-- mathlib3 port: `simpa only [← two_mul, exists_or, ← Odd, ← Even] using even_or_odd n`
```
Comment (jcommelin) [inline Mathlib/Data/Int/Parity.lean:79]: I think it's fine to keep both this comment and your proof. In the future, someone can revisit.

**Review by jcommelin — APPROVED** [review]

File: Mathlib/Data/Int/Parity.lean (hunk 2 above)
Comment (joneugster) [reply Mathlib/Data/Int/Parity.lean]: done.

File: Mathlib/Data/Int/Parity.lean (hunk 3 above)
Comment (joneugster) [reply Mathlib/Data/Int/Parity.lean:73]: sounds good

**Comment by ChrisHughes24** [comment]
bors merge
